US05229516
A. 2-Methyl-5-(2-quinolinylmethoxy)-1H-indene-3-acetic acid methyl ester
A mixture of 2-methyl-5-hydroxy-1H-indene-3-acetic acid methyl ester (1.8 g, 8.25 mmol), powdered anhydrous potassium carbonate (1.13 g, 8.25 mmol) and 18-crown-6 (0.219 g) in acetonitrile (21 mL) is stirred at room temperature for 15 minutes. 2-(Chloromethyl)quinoline (1.6 g, 9.08 mmol) is then added and the mixture is stirred for 15 hours at 65° C. After the solvent is removed, the residue is partitioned between water and ethyl acetate. The organic phase is dried over MgSO4 and evaporated. The crude product is purified by flash chromatography (eluant: methylene chloride-ethyl acetate) to afford 2.35 g (79%) of the desired product.

reactant | 2-methyl-5-hydroxy-1H-indene-3-acetic acid methyl ester | 8.25 mmol, 1.8 g | COC(CC1=C(CC2=CC=C(C=C12)O)C)=O | C13H14O3
reactant | potassium carbonate | 8.25 mmol, 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.219 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-(Chloromethyl)quinoline | 9.08 mmol, 1.6 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
solvent | acetonitrile | 21 mL | C(C)#N | C2H3N
product | 2-Methyl-5-(2-quinolinylmethoxy)-1H-indene-3-acetic acid methyl ester | 2.35 g, 79% | COC(CC1=C(CC2=CC=C(C=C12)OCC1=NC2=CC=CC=C2C=C1)C)=O | C23H21NO3
